US09029560B2
Preparation of (Z)-1-(3-(5-chloro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea (FB50)
The title compound was prepared as described in Example 35 using 3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoyl azide/3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole (C35b) and 1-(5-chloro-2-isopropylphenyl)thiourea (CB32) at a temperature of 60° C.; isolated as a clear oil (0.019 g, 12%).

reactant | 3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propanoyl azide 3-(4-(2-isocyanatoethyl)phenyl)-1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazole | FC(C1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)CCC(=O)N=[N+]=[N-])(F)F.N(=C=O)CCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F
reactant | 1-(5-chloro-2-isopropylphenyl)thiourea | ClC=1C=CC(=C(C1)NC(=S)N)C(C)C | C10H13ClN2S
product | (Z)-1-(3-(5-chloro-2-isopropylphenyl)-4-oxothiazolidin-2-ylidene)-3-(4-(1-(4-(trifluoromethyl)phenyl)-1H-1,2,4-triazol-3-yl)phenethyl)urea | ClC=1C=CC(=C(C1)N1/C(/SCC1=O)=N/C(=O)NCCC1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C30H26ClF3N6O2S
